US06720320B2
To a solution (400 ml) of 4,5,6,7-tetrahydrobenzo(b)thiophen-4-one (70.0 g) in methanol was added dropwise a solution (200 ml) of bromine (75.0 g) in methanol at room temperature. After the completion of the reaction, the reaction mixture was poured into water and extracted with chloroform, and the solvent was evaporated under reduced pressure. The obtained residue was dissolved in DMF (500 ml) and lithium bromide (30.0 g) was added. The reaction mixture was stirred with heating at a reaction temperature of 110° C. for 1 hr. The reaction mixture was poured into ice water, extracted with chloroform, the extract was dried over magnesium sulfate and concentrated under reduced pressure to give 4-hydroxymethylbenzo(b)thiophene (50.5 g). This was dissolved in DMF (300 ml) and boron hydride (15.0 g) was added. The mixture was stirred at room temperature for 1 hr. To this reaction mixture was added dropwise methoxymethyl chloride (16.5 g). After the completion of the reaction, the reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was dried and concentrated under reduced pressure. The residue was dissolved in THF (400 ml) and n-BuLi (1.6M hexane solution) (250 ml) was added dropwise at −78° C. After the mixture was stirred for 30 min, and carbonic acid gas was blown in until the reaction ended. The reaction mixture was poured into water, and the aqueous layer was made acidic with hydrochloric acid, and after extraction with ethyl acetate, the solvent was evaporated under reduced pressure to give the title compound as white crystals, melting point 212-214° C.

reactant | 4,5,6,7-tetrahydrobenzo(b)thiophen-4-one | 400 ml, 70.0 g | S1C2=C(C=C1)C(CCC2)=O | C8H8OS
reactant | bromine | 200 ml, 75.0 g | BrBr | Br2
reactant | water | O | H2O
reactant | methanol | CO | CH4O
product | 4-hydroxymethylbenzo(b)thiophene | 50.5 g | OCC1=CC=CC=2SC=CC21 | C9H8OS
